US08492378B2
3-[[[5-[1-(4-methoxyphenyl)-1H-benzimidazol-6-yl]-1,3,4-oxadiazol-2-yl]thio]methyl]benzonitrile
In the same manner as in Example 1 and using 5-[1-(4-methoxyphenyl)-1H-benzimidazol-6-yl]-1,3,4-oxadiazole-2-thiol instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 3-(bromomethyl)benzonitrile instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 24%) was obtained as colorless crystals.

reactant | 5-[1-(4-methoxyphenyl)-1H-benzimidazol-6-yl]-1,3,4-oxadiazole-2-thiol | COC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C2=NN=C(O2)S | C16H12N4O2S
reactant | 3-(bromomethyl)benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
product | 3-[[[5-[1-(4-methoxyphenyl)-1H-benzimidazol-6-yl]-1,3,4-oxadiazol-2-yl]thio]methyl]benzonitrile | yield 24% | COC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C2=NN=C(O2)SCC=2C=C(C#N)C=CC2 | C24H17N5O2S
